US06265575B1
Part C. 4-[[2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl]thio]phenol
A solution of 0.82 g (2.2 mmol) of methyl 4-[[2-(4-methoxyphenyl)benzo[b]thiophen-3-yl]thio]phenyl ether (Part B) in 50 mL of dichloroethane was treated with 1.2 mL (3.3 g; 13 mmol) of BBr3 at 0° C. for 5 h. The reaction was quenched by the careful addition of 15 mL of MeOH. Evaporation of the solvent in vacuo gave a residue which was subjected to flash chromatography (SiO2; 1% MeOH in CHCl3) to afford 0.47 g of the desired product as a solid.

reactant | methyl 4-[[2-(4-methoxyphenyl)benzo[b]thiophen-3-yl]thio]phenyl ether | 2.2 mmol, 0.82 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)SC2=CC=C(C=C2)OC | C22H18O2S2
reactant | BBr3 | 13 mmol, 1.2 mL, 3.3 g | B(Br)(Br)Br | BBr3
reactant | MeOH | CO | CH4O
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-[[2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl]thio]phenol | 0.47 g | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)SC2=CC=C(C=C2)O | C20H14O2S2
